US04863920
15.90 g (50 mmol) of (S)-8-bromo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one was stirred at 100° for 3 hours with 44 g (175 mmol) of iodine and 14 g (100 mmol) of potassium carbonate in 100 ml of N,N-dimethylformamide. The reaction mixture was poured into 1 l of water and, after stirring for 30 minutes, the precipitated product was filtered off. The filter residue was rinsed with water, dried and recrystallized from N,N-dimethylformamide. There was obtained (S)-8-bromo-11,12,13,13a-tetrahydro-1-iodo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 301°-303°.

reactant | (S)-8-bromo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 50 mmol, 15.90 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3)CCC1)=O | C14H12BrN3O
reactant | iodine | 175 mmol, 44 g | II | I2
reactant | potassium carbonate | 100 mmol, 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 l | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (S)-8-bromo-11,12,13,13a-tetrahydro-1-iodo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3I)CCC1)=O | C14H11BrIN3O
